US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(methylsulfonamidomethyl)isoxazole-3-carboxamide
(S)-5-(aminomethyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide (25 mg, 0.065 mmol) and DCM were added to a flask and stirred under nitrogen atmosphere. Methanesulfonyl chloride (9.05 μl, 0.065 mmol) was added and the reaction mixture was stirred at RT for 1 h. Methanesulfonyl chloride (6 μl) was added and the reaction mixture was stirred at RT overnight. Methanesulfonyl chloride (16 μl) was added and the reaction mixture was stirred at RT for 3 days. The reaction mixture was evaporated to dryness and the product was triturated using acetonitrile. Yield 8.3%. 1H-NMR (400 MHz; DMSO): δ 1.16 (d, 3H), 2.94 (s, 3H), 4.26-4.53 (m, 5H), 6.64 (s, 1H), 6.94 (d, 1H), 7.82 (d, 1H), 7.86 (m, 1H), 7.92 (dd, 1H), 7.98 (d, 1H), 8.09 (d, 1H), 8.81 (d, 1H)

reactant | (S)-5-(aminomethyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide | 0.065 mmol, 25 mg | NCC1=CC(=NO1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C18H17ClN6O2
reactant | Methanesulfonyl chloride | 0.065 mmol, 9.05 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | Methanesulfonyl chloride | 6 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | Methanesulfonyl chloride | 16 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(methylsulfonamidomethyl)isoxazole-3-carboxamide | Yield 8.3% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CNS(=O)(=O)C | C19H19ClN6O4S
